*****************************************************************
* NXP BSS138P
*
* Polarity N-Channel
* Ratings 60V/1.000000E+000OHMS/0.36A
*
* Date Created Mon Aug 22 01:43:36 2011
*
*****************************************************************

*
*****************************************************************

.SUBCKT BSS138P DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 8.81711084834576e-10
RLG GATE 1 2.21598165336399
LS SOURCE 8 1.26727771949329e-09
RLS2 SOURCE 8 3.18501629889452
RLS1 8 7 0.0467180319746777

RDS 7 4 5454545454.54546 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.802985969070549 TC=0.00832854653037782,-1.37955612905828E-05
RBD 9 4 0.162898402931231 TC=0.00832854653037782,-1.37955612905828E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 8000000000
CGS 2 6 3.3e-11
RG 1 2 39.9470486389713

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	36.2
+ -10	36.07
+ -5	35.85
+ -4	35.72
+ -3	35.44
+ -2	34
+ -1	31.55
+ -0.5	24.12
+ -0.2	19.67
+ -0.1	18.15
+ 0	16.075
+ 0.1	13.36
+ 0.2	11.65
+ 0.5	8.8
+ 1	7.09
+ 2	5.8
+ 5	4.58
+ 10	3.75
+ 12	3.55
+ 20	3.02
+ 25	2.81
+ 30	2.64



.MODEL MINT NMOS(Vto=1.20260002613067 Kp=7.774172e-001 Nfs=150000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=30000)

.MODEL DBD D(Bv=72 Ibv=1.000000E-005 Rs=1E-6 Is=1.50076631589652e-13
+ N=1 M=0.39 VJ=0.99 Fc=0.5 Cjo=8.04e-12 Tt=1.85e-08)

.ENDS